US05444071
(Example 3): 4'-[(2-Propylquinolin-4-yloxy)methyl]biphenyl-2-carboxylic acid*, m.p. 198°-200° C.; NMR (d6 -DMSO): 0.97(t,3H), 1.8(m,2H), 2.85(t,2H), 5.43(s,2H), 7.08(s,1H), 7.35-7.65(complex m,8H), 7.73(dt,2H),7.87(d,1H), 8.15(dd,1H), 12.7(br s,1H); mass spectrum (-ve FAB, DMSO/GLY): 396 (M-H)-, 186; microanalysis, found: C,77.5; H,6.0; N,3.5%; C26H23NO3.0.33C2H5OH requires: C,77.8; H,6.1; N,3,4%; starting from methyl 4'-[(2-propylquinolin-4-yloxy)methyl]biphenyl-2-carboxylate, obtained as a viscous oil; NMR: 1.03(t,3H), 1.87(m,2H), 2.94(t,2H), 3.68(s,3H), 5.36(s,2H), 6.75(s,1H), 7.34-7.6(complex m,8H), 7.68(dt,1H), 7.85(dd,21H), 8.03(d, 1H), 8.25(dd,1H); 13C NMR (CDCl3): (benzylic CH2) 69.8; itself obtained from 2-propyl-4-quinolone using analogous procedures to those described in Example 1; [*Note: 1M aqueous citric acid solution was used in place of 2M hydrochloric acid in the work-up procedure].

reactant | 4'-[(2-Propylquinolin-4-yloxy)methyl]biphenyl-2-carboxylic acid | C(CC)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C26H23NO3
reactant | methyl 4'-[(2-propylquinolin-4-yloxy)methyl]biphenyl-2-carboxylate | C(CC)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C27H25NO3
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-propyl-4-quinolone | C(CC)C1=NC2=CC=CC=C2C(C1)=O | C12H13NO
